US07981903B2
A −40° C. solution of 2-fluoro-6-[(2-{[5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide (250 mg, 0.58 mmol) in THF (50 mL) was treated with a solution of bromoacetyl chloride (95 mg, 0.61 mmol) in THF (1 mL). One-third of the reaction mixture was treated with a solution of methylamine (2M in THF, 4 mL, 8 mmol). After stirring overnight the resulting mixture was concentrated onto Celite and purified by silica gel chromatography using 1-10% MeOH (containing 0.2% NH3)/CH2Cl2 to obtain 2-fluoro-6-[(2-{[1-(N-methylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide as a yellow solid (54 mg, 56%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.43 (s, 3H), 3.12-3.22 (m, 2H), 3.68 (s, 1H), 3.78 (s, 3H), 4.03-4.15 (m, 2H), 6.22 (s, 1H), 6.87 (t, J=9.34 Hz, 1H), 6.96 (s, 1H), 6.99 (s, 1H), 7.23-7.38 (m, 1H), 7.66 (s, 1H), 8.02 (s, 1H), 8.11 (s, 1H), 8.49-8.60 (m, 2H), 10.56 (s, 1H), 11.29 (s, 1H), a CH2 signal with 2 protons is missing, may overlap with water peak in sample; ESIMS (M+H)+=505.07.

reactant | 2-fluoro-6-[(2-{[5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide | 0.58 mmol, 250 mg | FC1=C(C(=O)N)C(=CC=C1)NC1=C2C(NC(=N1)NC1=C(C=C3CCNC3=C1)OC)=NC=C2 | C22H20FN7O2
reactant | bromoacetyl chloride | 0.61 mmol, 95 mg | BrCC(=O)Cl | C2H2BrClO
reactant | methylamine | 8 mmol, 2M, 4 mL | CN | CH5N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-fluoro-6-[(2-{[1-(N-methylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide | 54 mg, 56% | FC1=C(C(=O)N)C(=CC=C1)NC1=C2C(NC(=N1)NC1=C(C=C3CCN(C3=C1)C(CNC)=O)OC)=NC=C2 | C25H25FN8O3
